US05962674
Preparation of N-pent-4-enoyl 2'-deoxy adenosine (dA Npr)
2'-Deoxyadenosine (Mallinkckrodt) (2.5 g, 10 mmol) was dried by repeated evaporation from anhydrous pyridine and was suspended in 50 ml of anhydrous pyridine. Trichloromethylsilane (64. ml, 50 mmol) was added and the reaction stirred for about 1 h. Then, 4-pentenoic anhydride (4 g, 20 mmol) was added and the contents stirred. After 15 min triethyl amine (3 ml) was added and the contents stirred for 2-3 h. The reaction slurry was cooled to 0-5° C. and 10 ml of water was added. After 5 min., 28% NH4OH (10 ml) was added. The resulting clear solution was evaporated to dryness. Water (150 ml) was added and the reaction mixture was extracted with ethylacetate: ether (50 ml, 1:1). The aqueous layer was separated and concentrated to a small volume. Upon leaving at room temperature, a white precipitate of the title compound was obtained. Filtration and drying gave ca. 3.5 g of pure title compound. Several experiments repeating the above procedure, using larger scale of operation, gave the title compound in 85-90% yield.

reactant | 2'-Deoxyadenosine | 10 mmol, 2.5 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O3
reactant | Trichloromethylsilane | 50 mmol | ClC(Cl)(Cl)[SiH3] | CH3Cl3Si
reactant | 4-pentenoic anhydride | 20 mmol, 4 g | C(CCC=C)(=O)OC(CCC=C)=O | C10H14O3
reactant | NH4OH | 10 ml | [NH4+].[OH-]
solvent | water | 10 ml | O | H2O
solvent | triethyl amine | 3 ml | C(C)N(CC)CC | C6H15N
product | N-pent-4-enoyl 2'-deoxy adenosine | C(CCC=C)(=O)NC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N=CN1 | C15H19N5O4
